US06683096B2
B. Preparation of methyl 2-(2-{4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoate
8.0 g (0.021 mol) of methyl 2-{2-[4-(1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoate were dissolved in 125 ml of DMF and, at room temperature, 1.12 g (0.028 mol) of 60% sodium hydride was carefully added. This mixture was stirred for half an hour. 2.9 ml (0.023 mol) of 2-bromoethyl ethyl ether were dropwise added and the stirring was continued for 4 h. The solvent was evaporated under reduced pressure and the residue was worked-up as usual. The crude mixture was purified by flash-chromatography over silica gel affording 4.12 g (54% of yield) of methyl 2-(2-{4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoate

reactant | methyl 2-{2-[4-(1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoate | 0.021 mol, 8.0 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)OC)C=CC=C1 | C23H26N2O3
reactant | sodium hydride | 0.028 mol, 1.12 g | [H-].[Na+]
reactant | 2-bromoethyl ethyl ether | 0.023 mol, 2.9 ml | C(C)OCCBr | C4H9BrO
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
product | methyl 2-(2-{4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoate | C(C)OCCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)OC)C=CC=C1 | C27H34N2O4
